US08044068B2
To a mixed solution of t-butyl (S)pyrrolidin-3-ylcarbamate (93 g), 4-trifluoromethoxyphenylacetic acid (112 g), and THF (550 mL) were added EDC.HCl (114 g) and HOBt-1H2O (114 g), and the mixture was stirred at room temperature for 3 days. The reaction solution was concentrated under reduced pressure, then diluted with chloroform, and washed with saturated aqueous sodium hydrogencarbonate, water, and brine. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting solids were washed with chloroform to obtain t-butyl ((S)-1-(2-(4-trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-yl)carbamate (144 g).

reactant | t-butyl (S)pyrrolidin-3-ylcarbamate | 93 g | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 4-trifluoromethoxyphenylacetic acid | 112 g | FC(OC1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O3
reactant | EDC.HCl | 114 g | CCN=C=NCCCN(C)C.Cl
solvent | THF | 550 mL | C1CCOC1 | C4H8O
product | t-butyl ((S)-1-(2-(4-trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-yl)carbamate | 144 g | FC(OC1=CC=C(C=C1)CC(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C18H23F3N2O4
